US05144045
(S)-3-Ethyl-4,5-dihydro-5-[(hexadecyloxy)methyl]-5-isoxazolemethanol
To a solution of 500 mg of 5-[[[(1,1-dimethylethyl)dimethylsilyl]oxy]methyl]-3-ethyl-5-[(hexadecyloxy)methyl]-4,5-dihydroisoxazole in 10 ml of tetrahydrofuran is added 2.13 ml of 1M tetrabutylammonium fluoride in tetrahydrofuran. After 2 hours the reaction is poured into water, ether and brine. The organic layer is separated, dried and evaporated, to give 300 mg of the desired compound.

reactant | 5-[[[(1,1-dimethylethyl)dimethylsilyl]oxy]methyl]-3-ethyl-5-[(hexadecyloxy)methyl]-4,5-dihydroisoxazole | 500 mg | CC(C)(C)[Si](OCC1(CC(=NO1)CC)COCCCCCCCCCCCCCCCC)(C)C | C29H59NO3Si
reactant | tetrabutylammonium fluoride | 1M, 2.13 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | (S)-3-Ethyl-4,5-dihydro-5-[(hexadecyloxy)methyl]-5-isoxazolemethanol | 300 mg | C(C)C1=NO[C@@](C1)(CO)COCCCCCCCCCCCCCCCC | C23H45NO3
